US06967254B2
4-(4-Chlorophenyl)-1-(1-methyl-piperidin-3-yl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one
The title compound was synthesized analogously by the method described in Example 10. 4-(4-Chlorophenyl)-1-piperidin-3-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one, instead of 4-(4-chlorophenyl)-1-piperidin-4-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one, was used. MS (ES+): 369.2 (M+H)+; (ES−): 367.1 (M−H)−.

reactant | 4-(4-Chlorophenyl)-1-piperidin-3-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)C=1C(NN(C1C1=CC=NC=C1)C1CNCCC1)=O | C19H19ClN4O
reactant | 4-(4-chlorophenyl)-1-piperidin-4-yl-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)C=1C(NN(C1C1=CC=NC=C1)C1CCNCC1)=O | C19H19ClN4O
product | 4-(4-Chlorophenyl)-1-(1-methyl-piperidin-3-yl)-5-pyridin-4-yl-1,2-dihydro-pyrazol-3-one | ClC1=CC=C(C=C1)C=1C(NN(C1C1=CC=NC=C1)C1CN(CCC1)C)=O | C20H21ClN4O
